US07932250B2
tert-Butyl 1-[(dimethylamino)carbonyl]-4-piperidinylcarbamate
To a solution of 500 mg (2.50 mmol) of tert-butyl 4-piperidinyl-carbamate in 20 mL of dichloromethane was added 522 μL (3.74 mmol) of triethylamine and 276 μL (3.00 mmol) of dimethylaminocarbonyl chloride and the mixture was stirred for 2 hours at room temperature. Then, the mixture was treated with ethyl acetate and the organic layer was washed with water and saturated saline solution, and then, dried over with anhydrous sodium sulfate. The solvent was removed under reduced pressure to give 636 mg (94%) of the title compound.

reactant | tert-butyl 4-piperidinyl-carbamate | 2.50 mmol, 500 mg | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | triethylamine | 3.74 mmol, 522 μL | C(C)N(CC)CC | C6H15N
reactant | dimethylaminocarbonyl chloride | 3.00 mmol, 276 μL | CN(C(=O)Cl)C | C3H6ClNO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | tert-Butyl 1-[(dimethylamino)carbonyl]-4-piperidinylcarbamate | 636 mg, 94% | CN(C(=O)N1CCC(CC1)NC(OC(C)(C)C)=O)C | C13H25N3O3
